US07635698B2
Step 3. {2-[[4-(tert-Butyl-dimethyl-silanyloxy)-1-(4-chloro-benzoyl)-pyrrolidin-3-yl]-(2-chloro-acetyl)-amino]-ethyl}-carbamic acid tert-butyl ester
To a solution of {2-[4-(tert-butyl-dimethyl-silanyloxy)-1-(4-chloro-benzoyl)-pyrrolidin-3-ylamino]-ethyl}-carbamic acid tert-butyl ester (389 mg, 0.78 mmol) at 0° C., was added DIPEA (0.150 mL, 0.85 mmol) and chloroacetyl chloride (62 uL, 0.78 mmol). The reaction mixture was stirred at RT for overnight. The organic phase was washed with Sat. NaHCO3, dried over Na2SO4, and concentrated. The residue was purified by column chromatography (Ethyl acetate:Hexane: 1:2) to give the desired product (260 mg, 58% yield) as a colorless oil. MS: (ESI), M/Z, 574 (M+1). Retention time: 2.78 min (FA-polar).

reactant | {2-[4-(tert-butyl-dimethyl-silanyloxy)-1-(4-chloro-benzoyl)-pyrrolidin-3-ylamino]-ethyl}-carbamic acid tert-butyl ester | 0.78 mmol, 389 mg | C(C)(C)(C)OC(NCCNC1CN(CC1O[Si](C)(C)C(C)(C)C)C(C1=CC=C(C=C1)Cl)=O)=O | C24H40ClN3O4Si
reactant | DIPEA | 0.85 mmol, 0.150 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | chloroacetyl chloride | 0.78 mmol, 62 uL | ClCC(=O)Cl | C2H2Cl2O
product | {2-[[4-(tert-Butyl-dimethyl-silanyloxy)-1-(4-chloro-benzoyl)-pyrrolidin-3-yl]-(2-chloro-acetyl)-amino]-ethyl}-carbamic acid tert-butyl ester | 260 mg, 58% yield | C(C)(C)(C)OC(NCCN(C(CCl)=O)C1CN(CC1O[Si](C)(C)C(C)(C)C)C(C1=CC=C(C=C1)Cl)=O)=O | C26H41Cl2N3O5Si
